Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unwitnessed fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with dementia, CAD, HTN, 
poorly characterized history of valvular heart disease and 
possible hx of CABG (given sternotomy wires on CXR) who presents 
after an unwitnessed fall concerning for syncope of unclear 
etiology. 

Per report, patient had returned from daycare to her apartment 
where she lives alone. Her neighbor heard a loud noise and found 
her outside in the hallway. The patient does not remember any of 
the circumstances surrounding her fall and only reports a memory 
of being dizzy with standing prior to this event. In the ED, she 
denied any pain, including chest pain, shortness of breath, 
weakness, numbness.
  
In the ED, initial VS were: 98.6 64 161/91 16 100% RA. 
  
Exam was notable for: dementia, fourth heart sound, systolic 
murmur, no mid-line tenderness, mild pain with lateral head 
movements   

Labs showed: WBC 9.6, H/H 13.3/40.1, PLT 173, K 4.5, CR 0.6, 
TROP <0.01 X 1.
 
Imaging including CT of the Head, CT of the C-spine and CXR were 
performed. CT Head showed " 1. No acute intracranial process. 2. 
Prominence of ventricles is likely central predominant 
involutional changes, although NPH is difficult to rule out in 
the absence prior comparison." CT of the C-spine showed "1. No 
fracture is identified. 2. Multilevel severe degenerative 
changes of the cervical spine, notable for severe bilateral 
neural foraminal narrowing at C7-T1." CXR showed Midline 
sternotomy wires and mediastinal clips as well as a prosthetic 
cardiac valve noted. Lung volumes are low though lungs appear 
clear. No focal consolidation, large effusion, pneumothorax or 
signs of congestion or edema. Cardiomediastinal silhouette 
appears normal."  

Consults: No consults were requested.

Patient received: no medications.
 
Transfer VS were: 98.3 87 146/81 98% RA. 
  
On arrival to the floor, patient only reports ongoing dizziness 
with standing. She denies headache, chest pain, SOB or abdominal 
pain.   
 
REVIEW OF SYSTEMS: 10-point ROS reviewed and negative except as 
per HPI  

 
Past Medical History:
HYPERTENSION
VALVULAR HEART DISEASE
HX OF TOTAL HIP REPLACEMENT 
 
Social History:
___
Family History:
None reported.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
VS: 98.3 PO 150 / 88 6616 97% on RA  
GENERAL: well-appearing, NAD, lying in bed  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera  
NECK: supple
HEART: regular, I/VI systolic murmur
LUNGS: CTAB, no wheezes, rales, rhonchi anteriorly
ABDOMEN: +bowel sounds, non-distended, non-tender in all
quadrants, no rebound/guarding
EXTREMITIES: no appreciable ___ edema  
NEURO: A&O x 3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no rashes  

DISCHARGE PHYSICAL EXAM
========================
VS: ___ 0813 Temp: 97.3 PO BP: 158/83 HR: 61 RR: 18 O2 sat:
95% O2 delivery: Ra FSBG: 95 
TELE: unremarkable
ORTHOSTATICS: BP 158/97 --> 168/93; HR 76 --> 76
GENERAL: well-appearing, NAD, lying in bed  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera  
NECK: supple
HEART: RRR, I/VI systolic murmur
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: soft, nontender, nondistended, no rebound or uarding
EXTREMITIES: no cyanosis, clubbing, edema 
NEURO: A&O x 3, nonfocal, unsteady getting up from bed
SKIN: warm and well perfused, no rashes  

 
Pertinent Results:
ADMISSION LABS
===============
___ 04:50PM BLOOD WBC-9.6 RBC-4.50 Hgb-13.3 Hct-40.1 MCV-89 
MCH-29.6 MCHC-33.2 RDW-12.5 RDWSD-41.0 Plt ___
___ 04:50PM BLOOD Neuts-82.5* Lymphs-10.4* Monos-4.7* 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-7.88* AbsLymp-0.99* 
AbsMono-0.45 AbsEos-0.12 AbsBaso-0.04
___ 04:50PM BLOOD Plt ___
___ 04:50PM BLOOD Glucose-134* UreaN-25* Creat-0.6 Na-144 
K-4.5 Cl-106 HCO3-24 AnGap-14
___ 04:50PM BLOOD cTropnT-<0.01

DISCHARGE LABS
================
___ 05:51AM BLOOD WBC-7.2 RBC-4.65 Hgb-13.7 Hct-40.9 MCV-88 
MCH-29.5 MCHC-33.5 RDW-12.7 RDWSD-40.5 Plt ___
___ 05:51AM BLOOD Plt ___
___ 05:51AM BLOOD Glucose-89 UreaN-21* Creat-0.6 Na-144 
K-4.2 Cl-103 HCO3-23 AnGap-18
___ 05:51AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.8

IMAGING
========

___ TTE
==============
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Diastolic function 
could not be assessed. Right ventricular chamber size and free 
wall motion are normal. The number of aortic valve leaflets 
cannot be determined. There is mild aortic valve stenosis (valve 
area 1.2-1.9cm2). No aortic regurgitation is seen. The mitral 
valve leaflets are moderately thickened. No mitral regurgitation 
is seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 
 IMPRESSION: 
 1) Normal biventricular regional/global systolic function.
 2) Mild aortic stenosis.
 3) Moderate mitral annular calcification without functional 
mitral stenosis.
 4) Stage II systolic arterial hypertension.  

CT Head
==========
1. No acute intracranial process. 
2. Prominence of ventricles may reflect central involutional 
changes, although NPH is difficult to rule out in the absence 
prior comparison.  Please correlate clinically. 

CT C Spine
==============
1. No fracture is identified. 
2. Multilevel severe degenerative changes of the cervical spine, 
notable for severe bilateral neural foraminal narrowing at 
C7-T1. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with CAD, HTN, poorly 
characterized history of valvular disease, demenia who presents 
after an unwitnessed fall, most concerning for syncope of 
unclear etiology. 

#UNWITNESSED FALL: unwitnessed fall at home, heard by neighbor. 
___ dizziness prior to event, however this is chronic, 
otherwise a full ROS was negative and patient asymptomatic on 
admission at baseline mental status. Syncopal workup in-house 
unremarkable, including normal orthostatics, unremarkable 
telemetry, troponins <0.01, no evidence of infectious process, 
no evidence of TIA/stroke with normal neuro exam and head CT, 
TTE with only moderate aortic stenosis. Vital signs remained 
stable. Evaluated by physical therapy, will be discharged with 
home ___ services.

#HYPERTENSION + CAD: continued home metoprolol tartrate, 
pravastatin, aspirin.

#DEMENTIA: continued home donepezil

TRANSITIONAL ISSUES:
========================
[ ] consider uptitration of Donepezil or addition of SSRI as 
dementia worsening per family members, has had significant 
psychosocial stress at home after recent death of her grandson 
this year ___ overdose
[ ] continue to address goals of care (full code at time of 
discharge)

>30 minutes spent on discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 5 mg PO QHS 
2. Metoprolol Tartrate 25 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Pravastatin 40 mg PO QPM 
5. linaclotide 290 mcg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Donepezil 5 mg PO QHS  
3.  linaclotide 290 mcg oral DAILY  
4.  Metoprolol Tartrate 25 mg PO BID  
5.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY
Unwitnessed fall

SECONDARY
CAD
HTN
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at ___. 

You came to the hospital because you fell at home. You do not 
remember falling and you did not have any symptoms before your 
fall. We evaluated you in the hospital with blood tests, a heart 
ultrasound, and heart monitoring. The results of the tests we 
performed were normal. We believe you most likely fell from 
tripping or as a result of dehydration. A physical therapist 
will come to your home and work with you to felt prevent falls 
in the future.

Please continue to take your home medications and to follow-up 
with your doctors as ___.

We wish you all the best,
Your ___ care team
 
Followup Instructions:
___